Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
very large prostate, significant BPH-related LUTS
 
Major Surgical or Invasive Procedure:
Transurethral Resection of Prostate, Photovaporization of 
Prostate with Greenlight Laser

 
History of Present Illness:
___ male with large prostate (>100g), significant BPH-related 
LUTS. 
 
Past Medical History:
PAST MEDICAL HISTORY:  Remarkable for eczema.
ATOPIC DERMATITIS 
BENIGN PROSTATIC HYPERTROPHY 
EDEMA 
GLAUCOMA 
HEALTH MAINTENANCE 
HIP PAIN 
HYPERGLYCEMIA 
THYROID NODULE 

SURGICAL HISTORY:  Unremarkable.
 
Social History:
___
Family History:
His family history is remarkable for brother who died of 
prostate
cancer at the age of ___.
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
no suprapubic fullness 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves
Voiding good volumes. PVRs monitored prior to discharge 
400-500cc.

 
Pertinent Results:
___ 06:38AM BLOOD WBC-9.5 RBC-4.45* Hgb-14.0 Hct-41.2 
MCV-93 MCH-31.5 MCHC-34.0 RDW-12.0 RDWSD-40.7 Plt ___

___ 06:38AM BLOOD Glucose-142* UreaN-16 Creat-1.1 Na-142 
K-4.4 Cl-105 HCO3-23 AnGap-14

 

 
___ 8:19 am URINE     Site: CYSTOSCOPY
      BLADDER URINE FOR CULTURE. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service with BPH and 
bladder outlet obstruction with lower urinary tract symptoms and 
underwent transurethral laser photovaporization of the prostate. 
No concerning intraoperative events occurred; please see 
dictated operative note for details. The patient received 
___ antibiotic prophylaxis. Patient's postoperative 
course was uncomplicated. He received intravenous antibiotics 
and continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and his Foley was removed with active voiding trial 
and his post void residuals were checked. His urine was clear 
and without clots. He remained a-febrile throughout his hospital 
stay.  At discharge, the patient's pain well controlled with 
oral pain medications, tolerating regular diet, ambulating 
without assistance, and voiding without difficulty.  He is given 
explicit instructions to follow up in clinic. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin EC 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID  
3. HELD- Aspirin EC 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin EC until resume on ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BENIGN PROSTATIC HYPERTROPHY
LOWER URINARY TRACT SYMPTOMS
URINARY RETENTION

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  
 
Followup Instructions:
___